US07829560B2
3-Fluoro-N-(4-{[2-(3-oxopiperazin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide (Compound B421).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 2-piperazinone according to conditions described in general procedure C. Mp: 140-142° C.; 1H NMR (400 MHz, CDCl3) δ 1.62-1.69 (m, 6 H), 3.25-3.28 (m, 6 H), 3.82 (s, 2 H), 4.14 (s, 2 H), 6.20 (d, J=5.5 Hz, 1 H), 6.38 (s, 1 H), 6.76 (d, J=11.7 Hz, 1 H), 7.00 (d, J=8.0 Hz, 1 H), 7.26 (d, J=8.0 Hz, 1 H), 7.32 (s, 1 H), 7.46-7.55 (m, 2 H), 7.83-7.92 (m, 3 H), 8.20-8.21 (m, 1 H), 8.36 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 2-piperazinone | N1C(CNCC1)=O | C4H8N2O
product | 3-Fluoro-N-(4-{[2-(3-oxopiperazin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CC(NCC2)=O)C=C(C1)N1CCCCC1 | C30H29FN6O3
